US07576104B2
N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-chloroacetamide I-41
To a stirred suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (1.37 g, 5.00 mmol) in THF (30 ml) was added chloroacetyl chloride-(0.62 g, 5.5 mmol). The mixture was heated to reflux for 30 minutes. The solvent was evaporated in vacuo and the resulting solid was slurried in diethyl ether (20 ml) and filtered to give 1.67 g (96-%) of product as an off-white solid: 1H NMR (DMSO-d6) δ 11.18 (s, 1H), 10.31 (s, 1H), 8.54 (d, J=8.4 Hz, 1H), 7.88 (t, J=7.7 Hz, 1H), 7.68 (d, J=7.3 Hz, 1H), 5.17 (dd, J=5.2 and 12.7 Hz, 1H), 4.54 (s, 2H), 2.90-2.85 (m, 1H), 2.65-2.51 (m, 2H), 2.10-2.06 (m, 1H).

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 5.00 mmol, 1.37 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | chloroacetyl chloride- | 5.5 mmol, 0.62 g | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-chloroacetamide | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(CCl)=O)=O)=O | C15H12ClN3O5
